US05658858
A mixture of 4-[4-bromo-3-ethoxy-2-(N-methyl-N-methylsulphonylamino)benzoyl]-5-cyclopropylisoxazole (0.5 g) and concentrated sulphuric acid (6 ml) in acetic acid (9 ml) was heated at 70° C. for 4 hours, then at 90° C. for 4 hours. The mixture was poured into excess water and carefully brought to pH 5.5 by the addition of 2M sodium hydroxide solution, extracted with ethyl acetate, dried (anhydrous magnesium sulphate), evaporated and purified by column chromatography to yield 4-[4-bromo-3-ethoxy-2-(methylamino)benzoyl]-5-cyclopropylisoxazole (0.096 g), NMR 1.15(m,2H), 1.25(m,2H), 1.4(t,3H), 2.5(m,1H), 2.9(s,3H), 3.9(q,2H), 6.8(d,1H), 7.05(d,1H), 7.1(s,1H), 8.25(s,1H).

reactant | 4-[4-bromo-3-ethoxy-2-(N-methyl-N-methylsulphonylamino)benzoyl]-5-cyclopropylisoxazole | 0.5 g | BrC1=C(C(=C(C(=O)C=2C=NOC2C2CC2)C=C1)N(S(=O)(=O)C)C)OCC | C17H19BrN2O5S
reactant | sulphuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
product | 4-[4-bromo-3-ethoxy-2-(methylamino)benzoyl]-5-cyclopropylisoxazole | 0.096 g | BrC1=C(C(=C(C(=O)C=2C=NOC2C2CC2)C=C1)NC)OCC | C16H17BrN2O3
